US06579983B1
5-Cyano-4-phenyl-N-[4-(2-hydroxyethyl)phenyl]pyrimidine-2-amine was prepared from 1-phenyl-2-cyano-3-dimethylaminopropen-1-one (4.0 g, 20 mmol), 4-(2-hydroxyethyl)phenyl-guanidinium nitrate (4.24 g,20 mmol) and sodium hydroxide (800 mg, 20.0 mmol) as a yellow solid (3.50 g), m.p. 142-143°. δH (CDCl3) 8.68 (1H, s), 8.03 (2H, dd, J 6.0, 2.0 Hz), 7.66 (1H, bs), 7.59-7.51 (5H, m), 7.23 (2H, m), 3.88 (2H, t, J 6.5 Hz), 2.87 (2H, t, J 6.5 Hz) and 1.62 (2H, bs).

reactant | 1-phenyl-2-cyano-3-dimethylaminopropen-1-one | 20 mmol, 4.0 g | C1(=CC=CC=C1)C(C(=CN(C)C)C#N)=O | C12H12N2O
reactant | 4-(2-hydroxyethyl)phenyl-guanidinium nitrate | 20 mmol, 4.24 g | [N+](=O)([O-])[O-].OCCC1=CC=C(C=C1)NC(=[NH2+])N
reactant | sodium hydroxide | 20.0 mmol, 800 mg | [OH-].[Na+]
product | 5-Cyano-4-phenyl-N-[4-(2-hydroxyethyl)phenyl]pyrimidine-2-amine | C(#N)C=1C(=NC(=NC1)NC1=CC=C(C=C1)CCO)C1=CC=CC=C1 | C19H16N4O
